US06677462B2
To a stirred solution of 7-(4-Fluoro-phenyl)-5-hydroxy-3-oxo-heptanoic acid tert-butyl ester (0.64 g, 2.06 mmol) in dry DCM was added TFA (0.24 g, 2.1 mmol) at 0° C. The resultant clear solution was stirred at rt for 16h. Removal of the volatile components under reduced pressure afforded the product 6-[2-(4-Fluoro-phenyl)-ethyl]-dihydro-pyran-2,4-dione as a white solid (0.32g, 66%). 1H NMR (300 MHz, CDCl3) δ1.8-2.2 (m, 2H), 2.25-2.55 (m, 2H), 2.65-2.95 (m, 2H), 3.55 (dd, ˜1H, J=10), 4.25-4.40(m, ˜0.5H), 4.6-4.7 (m, ˜0.5 H), 5.2 (s, ˜0.5 H), 6.90-7.05 (m, 2H), 7.1-7.2 (m, 2H), 10.8 (br, ˜0.5H). ESMS calcd (C13H13FO3): 236.1; found: 237.1 (M+H)+.

reactant | 7-(4-Fluoro-phenyl)-5-hydroxy-3-oxo-heptanoic acid tert-butyl ester | 2.06 mmol, 0.64 g | C(C)(C)(C)OC(CC(CC(CCC1=CC=C(C=C1)F)O)=O)=O | C17H23FO4
reactant | TFA | 2.1 mmol, 0.24 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-[2-(4-Fluoro-phenyl)-ethyl]-dihydro-pyran-2,4-dione | 0.32g, 66% | FC1=CC=C(C=C1)CCC1CC(CC(O1)=O)=O | C13H13FO3
